US09233937B2
To 200 mg (0.98 mM) of 3-bromo-1-ethylpyrazin-2(1H)-one and 57 mg (0.05 mM) of palladium tetrakis triphenylphosphine in 4 ml of toluene were added, under nitrogen, 231.0 mg (1.48 mM) of 4-chlorophenylboronic acid and 2.9 ml of 2M sodium carbonate aqueous solution. The mixture was stirred for 3 h at reflux under nitrogen atmosphere, and then at room temperature overnight. Water was added and the mixture was extracted with ethyl acetate. The organic phase was separated, dried, over anhydrous sodium sulfate, and concentrated. The compound was purified through a silica plug, eluting with dichloromethane, which afforded 110 mg of 3-(4-chlorophenyl)-1-ethylpyrazin-2(1H)-one as a solid.

reactant | 3-bromo-1-ethylpyrazin-2(1H)-one | 0.98 mM, 200 mg | BrC=1C(N(C=CN1)CC)=O | C6H7BrN2O
reactant | 4-chlorophenylboronic acid | 1.48 mM, 231.0 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 2.9 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)-1-ethylpyrazin-2(1H)-one | 110 mg, Yield: 56% | ClC1=CC=C(C=C1)C=1C(N(C=CN1)CC)=O | C12H11ClN2O
